US07456293B2
Step C: Preparation of 2-ethoxy-3-(4-{2-[2-(trifluoromethyl)-1H-benzimidazol-1-yl]ethoxy}phenyl)propanoic acid
To a stirred solution of ethyl 2-ethoxy-3-(4-{2-[2-(trifluoromethyl)-1H-benzimidazol-1-yl]ethoxy}phenyl)propanoate (238.5 mg, 0.5 mmol) in EtOH (5 ml) was added NaOH (2 ml, 2M aq. Solution, 2 mmol) in water (2 ml) at 0° C. at once. The reaction mixture was stirred at RT until all the ester disappeared (TLC). EtOH was removed in vacuo and the residue was dissolved in water. The solution was acidified to pH4 using 3N HCl and the precipitated acid was extracted with EtOAc to give the product as white solid (167 mg, 77.3%).

reactant | ethyl 2-ethoxy-3-(4-{2-[2-(trifluoromethyl)-1H-benzimidazol-1-yl]ethoxy}phenyl)propanoate | 0.5 mmol, 238.5 mg | C(C)OC(C(=O)OCC)CC1=CC=C(C=C1)OCCN1C(=NC2=C1C=CC=C2)C(F)(F)F | C23H25F3N2O4
reactant | NaOH | 2 mmol, 2M, 2 ml | [OH-].[Na+]
solvent | EtOH | 5 ml | CCO | C2H6O
solvent | water | 2 ml | O | H2O
product | 2-ethoxy-3-(4-{2-[2-(trifluoromethyl)-1H-benzimidazol-1-yl]ethoxy}phenyl)propanoic acid | 167 mg, 77.3% | C(C)OC(C(=O)O)CC1=CC=C(C=C1)OCCN1C(=NC2=C1C=CC=C2)C(F)(F)F | C21H21F3N2O4
